US06432993B1
5-{4-[6-(4-Acetylaminophenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione (Exemplified Compound No. 1-164)
A mixture of 5-{4-[6-(4-aminophenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione dihydrochloride (400 mg), acetylchloride (71 mg), triethylamine (263 mg) and anhydrous N,N-dimethylformamide (8 ml) was stirred at ambient temperature for 1 hour. The reaction mixture was concentrated and partioned between ethyl acetate and water. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate and concentrated. The residue was purified by chromatography on a silica gel column using n-hexane/ethyl acetate=1/4→ethyl acetate→ethyl acetate/methanol=1/10 as the eluant to give the title compound (320 mg).

reactant | 5-{4-[6-(4-aminophenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione dihydrochloride | 400 mg | Cl.Cl.NC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1
reactant | acetylchloride | 71 mg | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 263 mg | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 5-{4-[6-(4-Acetylaminophenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione | 320 mg | C(C)(=O)NC1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1 | C27H24N4O5S
